US08471005B2
Into a 30 mL vial, Palladium Acetate (14.0 mg, 0.0624 mmol) and Triphenylphosphine (41.0 mg, 0.156 mmol) were added and purged under an atmosphere of Nitrogen for 5 minutes. 1,4-Dioxane (2.9 mL, 37 mmol) was added and stirred for 10 minutes. (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[3-(2-methoxy-ethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yl]-amine (0.130 g, 0.312 mmol) and [B] Phenylboronic acid (0.0761 g, 0.624 mmol) in N,N-Dimethylformamide (2.9 mL, 38 mmol) and 1.50 M of Sodium carbonate in Water (0.624 mL, 0.937 mmol) were added, respectively. The reaction mixture was heated at 100° C. for 30 minutes. The solvent was removed under vacuum. The solid was washed with DCM. The organic was removed under vacuum. The reaction mixture was purified via ISCO column chromatography with DCM and methanol as eluant (0 to 20% methanol). The collected fractions afforded a solid. The solid was washed with 10% Et2O/hexane to give [3-(2-Methoxy-ethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yl]-(7-phenyl-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-amine as a yellow solid (48 mg, 37%). MP 116-118° C. LCMS (E/I+) 414.26 (M+H). NMR 1H (DSMO-d6) 9.36 (s, 1H), 8.96 (s, 1H), 8.11 (d, 1H, J=7.57 Hz), 7.69 (s, 1H), 7.51 (t, 2H, J=7.48 Hz), 7.41 (t, 1H, J=7.28 Hz), 7.34 (d, 1H, J=8.04 Hz), 7.17 (d, 1H, J=4.72 Hz), 7.02 (d, 1H, J=8.16 Hz), 6.94 (d, 1H, J=4.72 Hz), 3.46 (t, 2H, J=5.80 Hz), 3.24 (s, 3H), 2.79 (bs, 4H), 2.50-2.70 (m, 6H).

reactant | Triphenylphosphine | 0.156 mmol, 41.0 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,4-Dioxane | 37 mmol, 2.9 mL | O1CCOCC1 | C4H8O2
reactant | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[3-(2-methoxy-ethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yl]-amine | 0.312 mmol, 0.130 g | BrC1=CC=C2C=NC(=NN21)NC2=CC1=C(CCN(CC1)CCOC)C=C2 | C19H22BrN5O
reactant | Phenylboronic acid | 0.624 mmol, 0.0761 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | N,N-Dimethylformamide | 38 mmol, 2.9 mL | CN(C=O)C | C3H7NO
reactant | Water | 0.937 mmol, 0.624 mL | O | H2O
solvent | Sodium carbonate | 1.50 M | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Palladium Acetate | 0.0624 mmol, 14.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | [3-(2-Methoxy-ethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yl]-(7-phenyl-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-amine | 48 mg, 37% | COCCN1CCC2=C(CC1)C=C(C=C2)NC2=NN1C(C=N2)=CC=C1C1=CC=CC=C1 | C25H27N5O
